US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-fluoro-phenyl)-4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-methanone
The title compound, MS: m/e=518.2 (M+H+), was prepared in accordance with the general method of example 26 from 1-benzyl-3-(4-fluoro-phenyl)-piperidin-4-one, N-methyl-piperazine and 3,5-bistrifluoromethyl-benzoyl chloride.

reactant | 1-benzyl-3-(4-fluoro-phenyl)-piperidin-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=CC=C(C=C1)F | C18H18FNO
reactant | N-methyl-piperazine | CN1CCNCC1 | C5H12N2
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-fluoro-phenyl)-4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCN(CC1)C)C1=CC=C(C=C1)F)(F)F | C25H26F7N3O
